US07723330B2
Step C: Preparation of 3-oxo-2-(pyridin-2-yl)-2,3-dihydropyridazine-4-carboxylic acid:
A mixture of (E)-2,2-dimethyl-5-(2-(2-(pyridin-2-yl)hydrazono)ethylidene)-1,3-dioxane-4,6-dione (0.050 g, 0.182 mmol) and NaOMe (0.0118 g, 0.218 mmol) in MeOH (6 mL) was heated under reflux for 15 hours. The salt was treated with cold 1 N HCl solution, extracted with DCM, dried over MgSO4, and concentrated to afford 17.6 mg (45%) of the desired product. LRMS (apci pos): 218 (M+H).

reactant | (E)-2,2-dimethyl-5-(2-(2-(pyridin-2-yl)hydrazono)ethylidene)-1,3-dioxane-4,6-dione | 0.182 mmol, 0.050 g | CC1(OC(C(C(O1)=O)=C/C=N/NC1=NC=CC=C1)=O)C | C13H13N3O4
reactant | NaOMe | 0.218 mmol, 0.0118 g | C[O-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 6 mL | CO | CH4O
product | 3-oxo-2-(pyridin-2-yl)-2,3-dihydropyridazine-4-carboxylic acid | 17.6 mg, 45% | O=C1N(N=CC=C1C(=O)O)C1=NC=CC=C1 | C10H7N3O3
